US07834013B2
(+)-(trans)-N-(1-methylethyl)-2-[4-({[3-(phenyloxy)phenyl]methyl}amino)phenyl]cyclopropanecarboxamide (IV-10)
HATU (0.159 g, 0.42 mmol) was added to a solution of (+)-(trans)-2-{4-[(3-phenoxybenzyl)amino]phenyl}cyclopropanecarboxylic acid (III-3b) (0.100 g, 0.28 mmol) in 3 ml of N,N-dimethylformamide. The mixture was stirred at room temperature for 10 minutes and 0.059 mL (0.69 mmol) of isopropylamine was added. After stirring at room temperature for 15 minutes, the reaction mixture was diluted with water and extracted with ethyl acetate. The organic phase was washed with water and brine, dried over anhydrous sodium sulfate and concentrated. Chromatography on silica gel with hexane:ethyl acetate gave 0.068 g (61% yield) of the title compound as a white powder. NMR (400 MHz, CDCl3) δ 7.32 (d, J=8.61 Hz, 2H), 7.28 (d, J=8.6 Hz, 2H), 7.10 (t, J=8.42 Hz, 1H), 7.00 (m, 1H), 6.97 (d, J=6.59 Hz, 2H), 6.89 (d, J=8.61 Hz, 2H), 6.87 (m, 1H), 6.52 (d, J=8.61 Hz, 2H), 5.37 (d, J=7.51 Hz, 1H), 4.27 (s, 2H), 4.10 (septet, J=6.59 Hz, 1H), 4.00 (br s, 1H), 2.36 (m, 1H), 1.52 (m, 1H), 1.40 (m, 1H), 1.15 (d, J=4.21 Hz, 3H), 1.14 (d, J=4.40 Hz, 3H), 1.10 (m, 1H). ES-MS m/z 401 (M-H)+. [α]25,D=+183° (chloroform, c=1.5).

reactant | HATU | 0.42 mmol, 0.159 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | (+)-(trans)-2-{4-[(3-phenoxybenzyl)amino]phenyl}cyclopropanecarboxylic acid | 0.28 mmol, 0.100 g | O(C1=CC=CC=C1)C=1C=C(CNC2=CC=C(C=C2)[C@H]2[C@@H](C2)C(=O)O)C=CC1 | C23H21NO3
reactant | isopropylamine | 0.69 mmol, 0.059 mL | C(C)(C)N | C3H9N
reactant | hexane | CCCCCC | C6H14
solvent | N,N-dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (+)-(trans)-N-(1-methylethyl)-2-[4-({[3-(phenyloxy)phenyl]methyl}amino)phenyl]cyclopropanecarboxamide | 0.068 g, 61% yield | CC(C)NC(=O)[C@H]1[C@@H](C1)C1=CC=C(C=C1)NCC1=CC(=CC=C1)OC1=CC=CC=C1 | C26H28N2O2
